US07816522B2
(36d) [2-(3,4-dimethoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene]carbamic acid methyl ester
To a solution of 0.784 g of 2-(3,4-dimethoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]thioacetimidic acid methyl ester in 21.1 ml of toluene there were added 0.393 ml of 2,4,6-collidine and 0.304 ml of methyl chloroformate under a nitrogen atmosphere, and the mixture was stirred at 80° C. for 15 hours. After cooling the reaction mixture, 150 ml of ethyl acetate and 50 ml of water were added and the pH was adjusted to 4 with a few drops of sulfuric acid. The organic layer was washed with 50 ml of water and 50 ml of saturated brine, and dried over anhydrous magnesium sulfate. The desiccating agent was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane) to give the title compound (0.436 g) as a light yellow solid.

reactant | 2-(3,4-dimethoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]thioacetimidic acid methyl ester | 0.784 g | CSC(C(NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=CC(=C(C=C1)OC)OC)=N | C20H22N4O3S
reactant | 2,4,6-collidine | 0.393 ml | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | methyl chloroformate | 0.304 ml | ClC(=O)OC | C2H3ClO2
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | 21.1 ml | C1(=CC=CC=C1)C | C7H8
catalyst | sulfuric acid | a few drops | S(O)(O)(=O)=O | H2O4S
solvent | water | 50 ml | O | H2O
product | [2-(3,4-dimethoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene]carbamic acid methyl ester | 0.436 g | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=CC(=C(C=C1)OC)OC)SC)=O | C22H22N4O5S
